US08426411B2
To a mixture of N-(3-isocyanato-4-methylcyclopentyl)cyclopropanesulfonamide (1.00 g, 4.09 mmol, Preparation #NNN.1) in THF (2.0 mL) was added aqueous LiOH (4 N, 20.5 mL, 82 mmol). The reaction was heated to about 50° C. for about 16 h, cooled to ambient temperature and partitioned between water (5 mL) and EtOAc (10 mL). The organic portion was separated and the aqueous portion was extracted with DCM (3×20 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give crude N-(3-amino-4-methylcyclopentyl)cyclopropanesulfonamide (0.66 g, 74%) as a white solid: LC/MS (Table 1, Method n) Rt=0.020 min; MS m/z: 219 (M+H)+.

reactant | N-(3-isocyanato-4-methylcyclopentyl)cyclopropanesulfonamide | 4.09 mmol, 1.00 g | N(=C=O)C1CC(CC1C)NS(=O)(=O)C1CC1 | C10H16N2O3S
reactant | LiOH | 82 mmol, 4 N, 20.5 mL | [Li+].[OH-]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | N-(3-amino-4-methylcyclopentyl)cyclopropanesulfonamide | 0.66 g, 74% | NC1CC(CC1C)NS(=O)(=O)C1CC1 | C9H18N2O2S
